US05185339
A mixture of methyl 6-p-chlorobenzyl-2-picoline imidate (1.2 g, 0.00046 moles) and ammonium chloride (0.27 g, 0.0051 moles) in ethanol (10 ml) was refluxed for 6 hours. Removal of the ethanol in vacuo gave 6-p-chlorobenzyl-2-picoline amidine hydrochloride which was used in the final stage without further purification.

reactant | methyl 6-p-chlorobenzyl-2-picoline imidate | 0.00046 moles, 1.2 g | ClC1=CC=C(CC2=CC=CC(=N2)C(OC)=N)C=C1 | C14H13ClN2O
reactant | ammonium chloride | 0.0051 moles, 0.27 g | [Cl-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-p-chlorobenzyl-2-picoline amidine hydrochloride | Cl.ClC1=CC=C(CC2=CC=CC(=N2)C(=N)N)C=C1 | InChI=1S/C13H12ClN3.ClH/c14-10-6-4-9(5-7-10)8-11-2-1-3-12(17-11)13(15)16;/h1-7H,8H2,(H3,15,16);1H
